US04753943
Preparation of 2-Acetylaniline Oxime
2-Acetylaniline, 33.8 gm, was added slowly to 300 ml of ethanol containing 18.3 gm of hydroxylamine hydrochloride and 27.7 gm sodium carbonate. After addition of the entire amount of 2-acetylaniline, the system was refluxed for 16 hours and then cooled to room temperature. After cooling, the ethanol was removed by stripping. Water was then added to the residue to give a precipitate. The precipitate was filtered and dried to give a pale yellow solid, m.p. 55°-60° C.

reactant | 2-Acetylaniline | C(C)(=O)C1=C(N)C=CC=C1 | C8H9NO
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium carbonate | 27.7 gm | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 300 ml, 18.3 gm | C(C)O | C2H6O
product | 2-Acetylaniline Oxime | C(C)(C1=C(N)C=CC=C1)=NO | C8H10N2O
